Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / ibuprofen / morphine / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Worsening back pain, lower extremity pain 
 
Major Surgical or Invasive Procedure:
1. Incision and drainage of lumbar infection
2. Removal of segmental instrumentation in lumbar ___
3. Fusion exploration.
4. Scar revision.
5. VAC application.
6. TEE
7. Seroma drainage from back
 
History of Present Illness:
___ year old male with history of spinal fusion c/b surgical site 
infection requiring I&D x 2, wound dehiscence requiring wound 
vac, and prolonged IV antibiotics who presented with fever and 
recurrent infection s/p urgent washout of lumbar ___ found to 
have ___ transferred to medicine for further 
management. 
  
The patient has had a complex surgical history with at least 5 
surgeries starting over the past ___ years for back pain. The 
patient was involved in a MVA in ___ and had back pain after. 
Imaging studies showed adjacent segment disease. He was brought 
back to the operating room on ___. He had an interbody 
fusion of L3-L4, pedicle screw fixation L2-L3, revision of his 
hardware at L4 through S1, and placement of bilateral iliac 
screws with posterolateral fusion at L2 through L4.  This was 
complicated by a surgical site infection (CRP 245) requiring I&D 
on ___. He was started on vancomycin. Surgical cultures and 
blood cultures grew MSSA.

Course was then complicated by wound dehiscence and he went back 
to the OR on ___ for a revision, washout and wound vac 
placement. He was treated with vancomycin and then ancef and 
then switched to IV daptomycin on discharge. Prior to discharge 
he remained afebrile and leukocytosis had resolved.

On this admission, patient reported fever for 2 days. He was 
evaluated in the ___ on ___ with complaint of fever 
and worsening back pain, at that time had a temp to ___ F. 
Leukocytosis to 12.9. He was started on Vanc/Zosyn and 
transferred to ___. BCx at ___ were positive for GPCs.

Patient transiently required pressors in the ED and was 
initially admitted to the SICU. He was taken to the OR for 
urgent washout and removal of hardware. He was found to have 
purulent drainage in the OR which was sent for culture. He has a 
blood culture from ___ showing GPC growing in clusters. 
 
Past Medical History:
Multiple ___ surgeries incl posterolateral fusion of L2-S1
Lumbar fusion c/b osteomyelitis (MSSA)
Chronic Back Pain
Anxiety/Depression
GERD
DM2
 
Social History:
___
Family History:
Father died in his ___ from an MI. Mother had diabetes and was 
overweight. He has 1 daughter who is ___ with Down's syndrome 
with multiple medical problems.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
=======================
Tmax 100.9 (101.9 Max) HR 83 BP 113/78 RR 20 O2 95RA 
General: comfortable, lying on side
HEENT: PERRL, approx. 3 mm b/l, EOMI, dry mucous membranes  
Neck: supple, no LAD  
CV: RRR, no m, r, g  
Lungs: CTABL, no crackles 
Abdomen: +BS, tense but without rebounder tenderness or guarding 
 
MSK: wound vac in place over lumbar ___ w/ no surrounding 
erythema, induration or flutuance 
Ext: wwp
Neuro: grossly intact, moving all extremities equally, no facial 
droop, tongue midline, AOx4  

DISCHARGE PHYSICAL EXAM: 
=======================  
Vitals: 98.1 PO118/78 R Lying68 18 98 RA 
General: in moderate discomfort, lying on bed.
HEENT: PERRLA, EOMI, mucous membranes moist
Neck: supple, no LAD  
CV: RRR, no m, r, g  
Lungs: CTABL
Abdomen: +BS, soft, non-tender, non-distended
MSK: Incision on lumbar ___ C/D/I w/ no surrounding erythema, 
induration or flutuance, although tender throughout
Ext: wwp
Neuro: grossly intact, moving all extremities equally, no facial 
droop, tongue midline, AOx4  

 
Pertinent Results:
ADMISSION LABS: 
=======================
___ 05:00PM   GLUCOSE-92 UREA N-11 CREAT-0.6 SODIUM-133 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-21* ANION GAP-16
___ 05:00PM   CALCIUM-8.1* PHOSPHATE-2.2* MAGNESIUM-1.8
___ 05:00PM   WBC-11.2* RBC-3.48* HGB-9.2* HCT-29.5* MCV-85 
MCH-26.4 MCHC-31.2* RDW-15.8* RDWSD-48.5*
___ 05:00PM   NEUTS-75.0* LYMPHS-12.9* MONOS-10.7 EOS-0.6* 
BASOS-0.2 IM ___ AbsNeut-8.38* AbsLymp-1.44 AbsMono-1.19* 
AbsEos-0.07 AbsBaso-0.02
___ 05:00PM   PLT COUNT-250
___ 12:57AM   GLUCOSE-99 UREA N-10 CREAT-0.6 SODIUM-131* 
POTASSIUM-4.3 CHLORIDE-94* TOTAL CO2-21* ANION GAP-20
___ 12:57AM   estGFR-Using this
___ 12:57AM   WBC-11.8* RBC-3.86* HGB-10.4* HCT-32.0* 
MCV-83 MCH-26.9 MCHC-32.5 RDW-15.9* RDWSD-47.8*
___ 12:57AM   NEUTS-78.1* LYMPHS-10.5* MONOS-10.1 EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-9.18* AbsLymp-1.23 AbsMono-1.19* 
AbsEos-0.05 AbsBaso-0.03
___ 12:57AM   PLT COUNT-278
___ 12:57AM   ___ PTT-28.9 ___
___ 12:39AM   LACTATE-0.9
___ 12:19AM URINE  UHOLD-HOLD
___ 12:19AM URINE  UHOLD-HOLD
___ 12:19AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:19AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:19AM URINE  RBC-8* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 12:19AM URINE  MUCOUS-RARE

INTERIM LABS: 
=============
CK ___: 25
___ 04:30  CRP106.7*1
___ 17:42  CRP189.1*1

___  ESR 34
___  ESR 103

IMAGING: 
=========
+ MRI CERVICAL/THORACIC ___

1. Postoperative changes are seen in the lumbar ___ with 
interbody graft at L3-4 level. There is anterior epidural soft 
tissue prominence seen at L3-4 low which could be secondary to 
recurrent disc herniation or changes of discitis. No definite 
abscess is identified. The evaluation of the areas limited due 
to surrounding metallic artifacts. Correlation with prior 
imaging would be helpful and if none is available, further 
evaluation can be obtained with gallium scan to exclude spinal 
infection in the setting of metallic hardware. 2. Posterior 
enhancing soft tissues in the lumbar region could be due to 
surgery and postoperative change with no evidence of fluid 
collection to indicate abscess but infection of the soft tissue 
wound is difficult to evaluate or exclude on MRI appearances 
alone and clinical correlation is recommended. 3. No evidence of 
abscess, diskitis or osteomyelitis in the cervical or thoracic 
region. No cord compression.

+ LUMBAR SINGLE VIEW S/P HARDWARE REMOVAL ___

Images demonstrate previous surgery lumbar ___, with interbody 
devices at the presumed L3-4 and L4-5 levels. Anterior screw and 
washer demonstrated at L5. Surgical instruments are demonstrated 
posterior to the mid to lower lumbar ___. For details of the 
procedure please see the procedure report. 

+ TTE (___): The left atrial volume index is normal. Normal 
left ventricular wall thickness, cavity size, and global 
systolic function (3D LVEF = 62%). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. No masses or vegetations are seen on the aortic 
valve. The mitral valve appears structurally normal with trivial 
mitral regurgitation. No mass or vegetation is seen on the 
mitral valve. The estimated pulmonary artery systolic pressure 
is normal. No vegetation/mass is seen on the pulmonic valve. 
There is no pericardial effusion. 

CT ABDOMEN AND PELVIS (___): 
1. Status post removal of lower lumbar fusion hardware as 
described above. 
2. Residual interbody graft at L3-4, with ventral epidural 
abnormality at this level causing probably moderate central 
canal narrowing, stable,, may reflect residual disc herniation 
versus phlegmon.  Given mild enhancement of the adjacent right 
psoas muscle, also present on prior, findings may favor 
infection.  There is mild endplate irregularity of adjacent 
superior L4 endplate, indeterminate, this should be followed. 
3. Sclerosis of L2, L3, L4, L5 vertebral bodies, which showed 
enhancement on prior MRI ___, may be reactive, 
osteomyelitis possibly from infected screws, if this was 
clinically apparent during surgery, cannot be excluded. 
4. Large postoperative seroma overlying the lumbar ___.  
Superimposed infection cannot be excluded. 
5. No evidence of acute intra-abdominal pathology or evidence of 
infection. 

+ TEE (___): No mass/thrombus is seen in the left atrium or 
left atrial appendage. Overall left ventricular systolic 
function is normal (LVEF>55%). with normal free wall 
contractility. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion. No masses or vegetations are 
seen on the aortic valve. The mitral valve appears structurally 
normal with trivial mitral regurgitation. No mass or vegetation 
is seen on the mitral valve. There is no pericardial effusion. 

+ U/S upper back (___): Partially imaged fluid collection in 
the right paramidline back, at the superior aspect of the 
incision site.  The patient was unable to tolerate further 
scanning secondary to pain, and will be rescheduled for 
aspiration/drainage when nursing is available for moderate 
sedation.

MICRO: 
=======
___ 12:25 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +.    FINAL SENSITIVITIES. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      Reported to and read back by ___ (___) 
___ AT
      0855. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

___ 3:08 pm TISSUE      LUMBAR WOUND TISSUE. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary): 
      Reported to and read back by ___. ___ AT 2:13 ___ 
___. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         RIFAMPIN AND DAPTOMYCIN REQUESTED BY ___ ON 
___. 
      MIXED BACTERIAL FLORA. 
         MIXED BACTERIAL FLORA ( >=3 COLONY TYPES) CONSISTENT 
WITH SKIN
         FLORA. 
         Due to mixed bacterial types [>=3] an abbreviated 
workup is
         performed; all organisms will be identified and 
reported but only
         select isolates will have sensitivities performed. 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    SPARSE GROWTH. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH. 
         SENSITIVITIES PLUS DAPTOMYCIN REQUESTED BY ___ 
___ ___. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH ___ 
MORPHOLOGY. 
         SENSITIVITIES PLUS DAPTOMYCIN REQUESTED BY ___ 
___ ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


 
Brief Hospital Course:
This is a ___ year old male with history of spinal fusion 
complicated by surgical site infection requiring prior surgical 
intervention, admitted ___ staph bacteremia and recurrent 
spinal hardware infection, status post explantation of majority 
of hardware (still small amount of hardware in place), on IV 
antibiotics, course complicated by fevers and difficult pain 
control, status post drainage of seroma at surgical site, 
subsequently stabilized and able to be discharged home. 

# MSSA Bacteremia 
# Spinal Osteomyelitis 
# Chronic Open Lumbar Wound 
Patient presented with worsening back pain and fevers, with 
MSSA growing from admission blood culture. Given concern for 
hardware infection, patient underwent lumbar I&D, removal of 
segmental instrumentation (except for 1 screw and washer), and 
wound vac application by Dr. ___. He was treated with broad 
spectrum antibiotics while cultures were pending, and rifampin 
PO added for biofilm coverage. Wound vac was removed POD#2. 
After narrowing to nafcillin, course complicated by fevers.  
TTE and TEE were negative for valvular lesions. Given 
persistence of fevers he underwent repeat CT abd/pelvis which 
showed large seroma. Patient underwent ___ drainage of seroma on 
___ with negative gram stain.  Given the above fevers, and 
wound cultures growing coag neg staph, he was re-broadened to 
daptomycin 500 mg q24 hours due to cultures positive for MSSA 
and coag negative staph (details of treatment below).  Plan is 
for ___ wk course (___). Physical therapy was consulted for 
mobilization OOB to 
ambulate. A lumbar corset brace was fitted for the patient. 

#OPAT Antimicrobial Regimen and Projected Duration:
Agent & Dose: daptomycin 6mg/kg dose IV q24hrs
other medications: rifampin 450mg PO q12hrs
Start Date: ___
Projected End Date: ___

# Lower back Pain
Patient's acute back pain control was complicated by his 
chronic opiate regimen.  He has a longstanding history of RLE 
radiculopathy, with reports of ineffectiveness of prior 
regimens using methadone, cymbalta, various TCAs. He is 
maintained on gabapentin and 60mg oxycodone q4h at home. 
Chronic pain service was consulted and patient was initially 
controlled with Dilaudid PCA, but required a ketamine infusion 
initiation (likely due to limited help of Dilaudid PCA given 
his chronic high-dose opiate regimen).  Over subsequent 72 
hours, patient able to be weaned from ketamine infusion and 
Dilaudid PCA.  Patient transitioned to home oxycodone 60 mg 
Q4H:PRN on discharge. ___ reviweed and patient provided 6 
day supply of home regimen at discharge.  Given the lack of 
proven efficacy of opiates for chronic back pain, and the high 
risk of adverse events at such elevated doses of opiates, would 
recommend weaning patient from opiate therapy in outpatient 
setting.  

# DM2: His BG was adequately controlled without insulin. Home 
metformin was held during hospitalization, restarted at 
discharge

# Anxiety/depression:  Continued home mirtazapine 15 mg qHS. 
Patient has a lot of stressors at home. He met with social work 
to discuss his home situation. We recommend consideration of 
psych referral as an outpatient. 

# GERD: stable. Managed with tums PRN. 

TRANSITIONAL ISSUES: 
====================
# NEW MEDICATIONS: daptomycin 6mg/kg dose IV q24hrs, rifampin 
450mg  (Projected End Date: ___
[] Any limited benefit from his chronic opiate regimen is 
outweighed by significant risks to patient of this regimen; 
recommend weaning opiates in outpatient setting. 
[] Please monitor ___ site for signs of irritation and 
infection. Please remove PICC after antibiotic course is 
complete. 
[] Questions regarding outpatient parenteral antibiotics after 
discharge should be directed to the ___ R.N.s at 
___ or to the on-call ID fellow when the clinic is 
closed. 
[] Prescribed Narcan on discharge
[] Patient expressed depressed mood, but denied inpatient 
psychiatry consult. Please consider outpatient psychiatric 
evaluation for possible depression 
[] Please follow up remaining sensitivities:
 [ ] CoNS sensitivities 
 [ ] rifampin sensitivities 
 [ ] daptomycin sensitivities
[] PCP, ___ follow up
CONTACT: ___ (wife) ___ 
CODE: Full (confirmed)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tizanidine 6 mg PO Q6H:PRN muscle spasm 
2. Gabapentin 600 mg PO TID 
3. OxyCODONE (Immediate Release) 60 mg PO Q4H:PRN Pain - 
Moderate 
4. Mirtazapine 15 mg PO QHS 
5. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Melatin (melatonin) 3 mg oral QHS:PRN 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Daptomycin 500 mg IV Q24H 
last day ___ 
RX *daptomycin 500 mg 500 mg IV q24h Disp #*41 Vial Refills:*0 
3.  naloxone 4 mg/actuation nasal ONCE:PRN 
RX *naloxone [Narcan] 4 mg/actuation 4 mg nas prn Disp #*10 
Spray Refills:*0 
4.  Rifampin 450 mg PO Q12H 
last day ___ 
RX *rifampin 150 mg 3 capsule(s) by mouth twice a day Disp #*246 
Capsule Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*30 Tablet Refills:*0 
6.  Docusate Sodium 100 mg PO BID:PRN constipation  
7.  Gabapentin 600 mg PO BID  
8.  Gabapentin 900 mg PO QHS  
9.  Melatin (melatonin) 3 mg oral QHS:PRN  
10.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
11.  Mirtazapine 15 mg PO QHS  
12.  OxyCODONE (Immediate Release) 60 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 20 mg 3 tablet(s) by mouth every four (4) hours 
Disp #*108 Tablet Refills:*0 
13.  Tizanidine 6 mg PO Q6H:PRN muscle spasm  
14.Outpatient Lab Work
Please obtain weekly CBC with differential, BUN, Cr,  AST, ALT, 
TB, ALK PHOS, CK, ESR, CRP (start date ___
ICD-9: 730.08
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
Provider: ___, MD

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Spinal hardware infection
# Acute Lumbar spinal osteomyelitis 
# MSSA Sepsis 
# MSSA Bacteremia 
# Lower back pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACTIVITY: DO NOT lift anything greater than 10 lbs for 2 weeks. 

___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

You will be more comfortable if you do not sit or stand more 
than ~45 minutes without changing positions.

BRACE: You have been given a brace. This brace should be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.

WOUND: Remove the external dressing in 2 days. If your incision 
is draining, cover it with a new dry sterile dressing. If it is 
dry then you may leave the incision open to air. Once the 
incision is completely dry, (usually ___ days after the 
operation) you may shower. Do not soak the incision in a bath or 
pool until fully healed. If the incision starts draining at any 
time after surgery, cover it with a sterile dressing. Please 
call the office. 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

MEDICATIONS: You should resume taking your normal home 
medications. Refrain from NSAIDs immediately post operatively.

You have also been given Additional Medications to control your 
post-operative pain. Please allow our office 72 hours for refill 
of narcotic prescriptions. Please plan ahead. You can either 
have them mailed to your home or pick them up at ___ ___ 
___, ___. We are not able 
to call or fax narcotic prescriptions to your pharmacy. In 
addition, per practice policy, we only prescribe pain 
medications for 90 days from the date of surgery.
 
Followup Instructions:
___